US04772600
2-(4-Methoxyphenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine
Under nitrogen bubbling, a mixture of 2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.2 g, 0.015 mole) and 1,1'-carbonyldiimidazole (2.43 g, 0.015 mole) in 120 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. Then, under nitrogen atmosphere, piperidine (1.92 g, 0.022 mole) was added and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was filtered and the filtrate was evaporated to dryness, then placed under high vacuum for 3-4 hrs. The residue was treated with water and the solid was collected by filtration, washed with water, and dried under high vacuum at 50°-60° C. overnight. The solid was recrystallized from isopropyl alcohol with refrigeration overnight. The solid was collected by filtration, washed with cold isopropyl alcohol and water, and dried under high vacuum at 50°-60° C. overnight to give 3.21 g (62%) of title compound, mp 153°-55° C.

reactant | 2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.015 mole, 4.2 g | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C15H13N3O3
reactant | 1,1'-carbonyldiimidazole | 0.015 mole, 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperidine | 0.022 mole, 1.92 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-(4-Methoxyphenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine | 3.21 g, 62% | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(N1CCCCC1)=O | C20H22N4O2
